US09278968B2
To a suspension of 5.41 g of ethyl 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate in 32 ml of ethanol was added dropwise 6.2 ml of a 5 M aqueous sodium hydroxide solution, followed by stirring at 60° C. for 1.5 hours. To the reaction mixture was added dropwise 15.8 ml of 2 M hydrochloric acid at 50° C., and then 1.5 ml of a 2 M hydrochloric acid was added thereto. The insoluble materials were collected by filtration and the solid was washed with ethanol/water=1:1 to obtain 3.46 g of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid.

reactant | ethyl 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 5.41 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)OCC)C(=CC=C1)F | C18H16F2N2O3
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
reactant | hydrochloric acid | 2 M, 15.8 ml | Cl | ClH
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | ethanol | 32 ml | C(C)O | C2H6O
product | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 3.46 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
